US20010000512A1
A mixture of 3-nitrobenzenethioamide (2.73 g, 15 mmol) and 3-methoxy-α-[bromoacetophenone (3.43 g, 15 mmol) in EtOH (30 mL) is heated under reflux for 18 h. It is cooled and filtered to give 4 g of 2-(3′-nitrophenyl)-4[(3′-methoxy)phenyl]thiazole as a yellow solid, mp. 122-123° C.

reactant | 3-nitrobenzenethioamide | 15 mmol, 2.73 g | [N+](=O)([O-])C=1C=C(C=CC1)C(N)=S | C7H6N2O2S
reactant | bromoacetophenone | 15 mmol, 3.43 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | EtOH | 30 mL | CCO | C2H6O
product | 2-(3′-nitrophenyl)-4[(3′-methoxy)phenyl]thiazole | 4 g | [N+](=O)([O-])C=1C=C(C=CC1)C=1SC=C(N1)C1=CC(=CC=C1)OC | C16H12N2O3S
